US07531532B2
tert-Butyl [4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridin-2-yl]carbamate
Triethylamine (4.6 ml) was added to a suspension of 4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridine-2-carboxylic acid (5.04 g) in tert-butanol (50 ml) at room temperature, and the mixture was stirred. After adding diphenylphosphoryl azide (3.13 ml) thereto at room temperature, the mixture was stirred for 30 minutes at room temperature under a nitrogen atmosphere. It was then heated and stirred at 90° C. for 30 minutes and at 100° C. for 4 hours. The reaction mixture was subsequently cooled to room temperature. Ethyl acetate (25 ml) was added thereto, and the reaction mixture was stirred for 30 minutes while cooling in an ice bath. The precipitated crystals were filtered and washed with diethyl ether. They were then subjected to aeration drying for 1 hour at room temperature to provide the title compound (3.92 g, 65.5%) as colorless crystals.

reactant | Triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridine-2-carboxylic acid | 5.04 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=C2)C(=O)O)C=C1)F | C20H15FN2O5
reactant | diphenylphosphoryl azide | 3.13 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | tert-Butyl [4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridin-2-yl]carbamate | 3.92 g, 65.5% | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=C2)NC(OC(C)(C)C)=O)C=C1)F | C24H24FN3O5
